US05405865
1-(2-furyl)-2-propynol.
2 g of 2-furaldehyde in 30 ml of tetrahydrofuran were cooled to 0° C. and 50 ml of a 0.5M solution of ethynyl magnesium bromide in tetrahydrofuran were added dropwise over 15minutes. The mixture was stirred for 1 hour at 0° C., poured into a saturated aqueous sodium dihydrogenphosphate solution and extracted with isopropyl ether. The extract was dried and the solvent was evaporated to obtain 2.5 g of the expected product after chromatography on silica (eluent: 75/25 hexane/ethyl acetate).

reactant | 2-furaldehyde | 2 g | O1C(=CC=C1)C=O | C5H4O2
reactant | ethynyl magnesium bromide | C(#C)[Mg]Br
reactant | sodium dihydrogenphosphate | P(=O)(O)(O)[O-].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-(2-furyl)-2-propynol | 2.5 g | O1C(=CC=C1)C(C#C)O | C7H6O2
